US05624937
1-[4-(2-quinolylamino)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-aminophenylamino)quinoline (5.0 moles, 1.15 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (5.0 moles, 1.20 g) were reacted according to procedure C of to yield the title compound 1.60 g, 68%. Mass Spec (FD) 473. Calculated for C23H16C1F3N4S: C,; H,; N, Found: C,; H,; N,.

reactant | 2-(4-aminophenylamino)quinoline | 5.0 moles, 1.15 g | NC1=CC=C(C=C1)NC1=NC2=CC=CC=C2C=C1 | C15H13N3
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 5.0 moles, 1.20 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(2-quinolylamino)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 1.60 g, 68% | N1=C(C=CC2=CC=CC=C12)NC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H16ClF3N4S
